US07897597B2
The general method described in Example 5 was followed using N-[2-(4-amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide (1.00 g, 2.01 mmol) in lieu of 7-benzyloxy-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine. The crude product was recrystallized from methanol (20 mL). The crystals were collected in three crops and washed with methanol and ethyl acetate. The crops were combined and purified by column chromatography on silica gel (eluting with 89.1:9.9:1 chloroform:methanol:ammonium hydroxide) to provide 330 mg of N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide as a white powder, mp 255-256° C. 1H NMR (300 MHz, DMSO-d6, 350K) δ 9.18 (br s, 1H), 8.09 (d, J=8.9 Hz, 1H), 7.00 (br s, 1H), 6.96 (d, J=2.5 Hz, 1H), 6.77 (dd, J=8.9, 2.5 Hz, 1H), 6.11 (s, 2H), 4.84 (s, 2H), 4.81 (s, 2H), 3.56 (q, J=7.0 Hz, 2H), 2.97 (s, 3H), 1.29 (s, 6H), 1.15 (t, J=7.0 Hz, 3H);

reactant | N-[2-(4-amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 2.01 mmol, 1.00 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)OCC2=CC=CC=C2 | C25H31N5O4S
reactant | 7-benzyloxy-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C24H28N4O
product | N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 330 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)O | C18H25N5O4S
